US08067408B2
3-Bromo-4-methylbenzamide
3-Bromo-4-methylbenzoic acid (5 g, 23.25 mmol) was suspended in CH2Cl2 (100 mL) and stirred under argon at room temperature. Oxalyl chloride (5.9 g, 46.5 mmol) was added followed by DMF (20 μL). Gas evolution began, and the mixture was stirred for 2 days during which time complete solution occurred. The solvents were pumped off and toluene was added and stripped off to remove excess oxalyl chloride. The residue was taken up in EtOAc and added to concentrated ammonium hydroxide (20 mL). This was stirred for thirty min. The phases were separated and the organic washed 1× with brine dried over anhydrous Na2SO4, filtered, and concentrated. The residue was crystallized from EtOAc/hexane and dried under vacuum to afford the title compound as a white crystalline solid. LC-MS m/z 213.8 (M+H)+, 1.41 min (ret time); mp 178-179° C.

reactant | 3-Bromo-4-methylbenzoic acid | 23.25 mmol, 5 g | BrC=1C=C(C(=O)O)C=CC1C | C8H7BrO2
reactant | Oxalyl chloride | 46.5 mmol, 5.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 20 μL | CN(C)C=O | C3H7NO
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-4-methylbenzamide | BrC=1C=C(C(=O)N)C=CC1C | C8H8BrNO
